US08309546B2
5-{9-(Cyclopropylmethyl)-6-morpholin-4-yl-8-[3-(phenylsulfonyl)pyrrolidin-1-yl]-9H-purin-2-yl}pyrimidin-2-amine
3-(Phenylsulfonyl)pyrrolidine (110 mg, 0.52 mmol) and dimethyl sulfoxide (0.8 ml) were added to 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine (80 mg, 0.21 mmol) and the resulting mixture was stirred at 150° C. for 4 hours. The reaction mixture was partitioned with ethyl acetate and water and the organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by silica gel chromatography (ethyl acetate:hexane=2:1) to give the title compound (20 mg, 17%) as a white solid.

reactant | 3-(Phenylsulfonyl)pyrrolidine | 0.52 mmol, 110 mg | C1(=CC=CC=C1)S(=O)(=O)C1CNCC1 | C10H13NO2S
reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.21 mmol, 80 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1CC1 | C17H19ClN8O
solvent | dimethyl sulfoxide | 0.8 ml | CS(=O)C | C2H6OS
product | 5-{9-(Cyclopropylmethyl)-6-morpholin-4-yl-8-[3-(phenylsulfonyl)pyrrolidin-1-yl]-9H-purin-2-yl}pyrimidin-2-amine | 20 mg, 17% | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1CC(CC1)S(=O)(=O)C1=CC=CC=C1)N1CCOCC1)C=1C=NC(=NC1)N | C27H31N9O3S
